US08003649B2
A stirred solution of 6-(piperazin-1-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine dihydrochloride (0.173 g, 0.5 mmol), DIPEA (0.300 mL, 1.75 mmol) and 2-fluorophenethyl bromide (0.084 mL, 0.60 mmol) in DMF (2 mL) was heated at 100° C. for 2.5 hours. The reaction was incomplete and further DIPEA (0.300 mL, 1.75 mmol) and 2-fluorophenethyl bromide (0.084 mL, 0.60 mmol) were added. The solution was stirred at 100° C. for a further 90 minutes. The crude product was purified by preparative HPLC (Waters XBridge Prep C18 OBD column, 5μ silica, 19 mm diameter, 100 mm length), using decreasingly polar mixtures of water (containing 1% ammonia) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford 6-[4-[2-(2-fluorophenyl)ethyl]piperazin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine (0.131 g, 66.4%) as a crisp foam.

reactant | 6-(piperazin-1-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine dihydrochloride | 0.5 mmol, 0.173 g | Cl.Cl.N1(CCNCC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F
reactant | DIPEA | 1.75 mmol, 0.300 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-fluorophenethyl bromide | 0.60 mmol, 0.084 mL | FC1=C(CCBr)C=CC=C1 | C8H8BrF
reactant | DIPEA | 1.75 mmol, 0.300 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-fluorophenethyl bromide | 0.60 mmol, 0.084 mL | FC1=C(CCBr)C=CC=C1 | C8H8BrF
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 6-[4-[2-(2-fluorophenyl)ethyl]piperazin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine | 0.131 g, 66.4% | FC1=C(C=CC=C1)CCN1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C18H18F4N6
